US08802661B2
To a flask containing methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(chlorocarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (77 mg, 0.13 mmol) in DCE (2 mL) was added Hunig's base (0.068 mL, 0.390 mmol), DMAP (1 mg, 8.19 mmol), and N,N-dimethylethylenediamine (0.029 mL, 0.260 mmol). The mixture was stirred for two hours at rt. The reaction was quenched with 5 mL of water and was extracted with dichloromethane (3×5 mL). The combined organic layers were dried with Na2SO4. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure and was purified by Biotage flash chromatography using a 0-10% MeOH in dichloromethane gradient. The fractions containing the expected product were combined and concentrated under reduced pressure to give methyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-3a-(2-(dimethylamino)ethylcarbamoyl)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate as a white foam (37 mg, 44% yield). LCMS: m/e 647.7 (M+H)+, 3.09 min (method 3).

reactant | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(chlorocarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.13 mmol, 77 mg | ClC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C | C38H51ClO3
reactant | Hunig's base | 0.390 mmol, 0.068 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N,N-dimethylethylenediamine | 0.260 mmol, 0.029 mL | CN(CCN)C | C4H12N2
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 8.19 mmol, 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl 4-((1S,3aS,5aR,5bR,7aS,9S,11aS,11bR,13aR,13bR)-3a-(2-(dimethylamino)ethylcarbamoyl)-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 37 mg, 44% yield | CN(CCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(C)C)C | C42H66N2O3
